US05344843
A mixture of 4-[2-(2-naphthalenyloxy)ethoxy]-alpha-oxobenzeneacetic acid methyl ester (3.5 g), 1,1-dimethylhydrazine (2.28 mL) in methanol (40 mL), tetrahydrofuran (20 mL) and one drop of glacial acetic acid was refluxed for 48 hours and evaporated to dryness. The crude mixture was separated by HPLC (dichloromethane-ether, 49:1) and the more polar component was crystallized from dichloromethane-methanol to provide 0.9 g of (E)-alpha-(dimethylhydrazono)-4-[2-(2-naphthalenyloxy)ethoxy]benzeneacetic acid methyl ester as a colorless solid, mp 137°-138° C.

reactant | 4-[2-(2-naphthalenyloxy)ethoxy]-alpha-oxobenzeneacetic acid methyl ester | 3.5 g | COC(C(C1=CC=C(C=C1)OCCOC1=CC2=CC=CC=C2C=C1)=O)=O | C21H18O5
reactant | 1,1-dimethylhydrazine | 2.28 mL | CN(N)C | C2H8N2
solvent | methanol | 40 mL | CO | CH4O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
catalyst | acetic acid | one drop | C(C)(=O)O | C2H4O2
product | (E)-alpha-(dimethylhydrazono)-4-[2-(2-naphthalenyloxy)ethoxy]benzeneacetic acid methyl ester | 0.9 g | COC(/C(/C1=CC=C(C=C1)OCCOC1=CC2=CC=CC=C2C=C1)=N/N(C)C)=O | C23H24N2O4
